US07157455B2
The same procedure as described in Example 25 was used, starting from [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(2-methoxy-phenyl)-methanone trifluoroacetic acid salt, Example 11, and propyl isocyanate (Aldrich), to give 4-[4-Amino-5-(2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid propylamide. HRMS, observed: 413.2299; Calcd for (M+H)+: 413,2296.

reactant | [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(2-methoxy-phenyl)-methanone trifluoroacetic acid salt | FC(C(=O)O)(F)F.NC1=NC(=NC=C1C(=O)C1=C(C=CC=C1)OC)NC1CCNCC1
reactant | propyl isocyanate | C(CC)N=C=O | C4H7NO
product | 4-[4-Amino-5-(2-methoxy-benzoyl)-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid propylamide | C(CC)NC(=O)N1CCC(CC1)NC1=NC=C(C(=N1)N)C(C1=C(C=CC=C1)OC)=O | C21H28N6O3
